US20010046993A1
To a stirred solution of 2-methyl-2-propanol (92.8 g, 1252 mmol; 2.1 eq.) in anhydrous THF (1100 ml) was added a 1.0 M solution of EtMgBr in THF (1192 ml, 1192 mmol; 2.0 eq.) dropwise slowly at 0° C. under nitrogen atmosphere for 2 hours period. The resulting solution was stirred at room temperature for 1 hour. Then to the mixture was added a solution of dimethyl 3-amino-2-pentenedioate (113.5 g, 655 mmol; 1.1 eq.) in anhydrous THF (550 ml) dropwise slowly at 0° C. for 20 minutes. The resulting pale yellow solution was stirred at the same temperature for 1 h, then a solution of methyl 3-(2,6-dichlorophenyl)-2-[(1,3-thiazol-2-yl)propanoyl]-2-propenoate (219.9 g, 594 mmol; 1.0 eq.) in anhydrous THF (550 ml) was added at 0° C. for 30 minutes. The reaction mixture was stirred at room temperature for 16 hours under nitrogen atmosphere, then acetic acid (170 ml; 5.0 eq.) was added at 0° C. The resulting mixture was stirred at room temperature for 6 hours. The mixture was poured into 2 NNaOHaq. (1000 ml), the organic phase was separated and the aqueous phase was extracted with EtOAc (2000 ml). The combined organic phase was washed with H2O (1000 ml) and brine (1000 ml), dried (Na2SO4) and concentrated to give a crude mixture. Purification on silica gel column chromatography (3 times 1700 g) eluted with hexane/EtOAc (2/1 to 1/2) to afford 246.0 g (85% ) of dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-(1,3-thiazol-2-yl)ethyl]- 1,4-dihydropyridine-3,5-dicarboxylate as a brown oil

reactant | 2-methyl-2-propanol | 1252 mmol, 92.8 g, 2.1 eq. | CC(C)(C)O | C4H10O
reactant | EtMgBr | CC[Mg+].[Br-]
reactant | dimethyl 3-amino-2-pentenedioate | 655 mmol, 113.5 g, 1.1 eq. | NC(=CC(=O)OC)CC(=O)OC | C7H11NO4
reactant | methyl 3-(2,6-dichlorophenyl)-2-[(1,3-thiazol-2-yl)propanoyl]-2-propenoate | 594 mmol, 219.9 g, 1.0 eq. | ClC1=C(C(=CC=C1)Cl)C=C(C(=O)OC)C(CCC=1SC=CN1)=O | C16H13Cl2NO3S
reactant | acetic acid | 170 ml, 5.0 eq. | C(C)(=O)O | C2H4O2
solvent | THF | 1100 ml | C1CCOC1 | C4H8O
solvent | THF | 550 ml | C1CCOC1 | C4H8O
solvent | THF | 550 ml | C1CCOC1 | C4H8O
solvent | THF | 1192 mmol, 1192 ml, 2.0 eq. | C1CCOC1 | C4H8O
product | dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-(1,3-thiazol-2-yl)ethyl]- 1,4-dihydropyridine-3,5-dicarboxylate | 246.0 g, 85% | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC=1SC=CN1)CC(=O)OC)C(=O)OC | C23H22Cl2N2O6S
